US08445408B2
A mixture of 0.40 g (1.21 mmol) of 2-amino-4-chloro-6-phenylpyrimidine-5-carbonitrile (crude mixture as precursor, ca. 70% purity), 0.27 g (1.82 mmol) of (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-amine and 0.34 g (2.42 mmol) of potassium carbonate is heated in 1 ml of N-methylpyrrolidone as solvent at 150° C. for 60 minutes in a microwave appliance (Biotage Initiator, http://www.biotage.com/DynPage.aspx?id=22001). The crude mixture is absorbed on silica gel and, following column chromatographic separation, 0.291 g of 2-amino-4-phenyl-6-[(1R)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrimidine-5-carbonitrile is obtained (solid, 67% yield, 95% purity).

reactant | 2-amino-4-chloro-6-phenylpyrimidine-5-carbonitrile | 1.21 mmol, 0.40 g | NC1=NC(=C(C(=N1)Cl)C#N)C1=CC=CC=C1 | C11H7ClN4
reactant | (1R,2S)-2,6-dimethyl-2,3-dihydro-1H-inden-1-amine | 1.82 mmol, 0.27 g | C[C@@H]1[C@H](C2=CC(=CC=C2C1)C)N | C11H15N
reactant | potassium carbonate | 2.42 mmol, 0.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 2-amino-4-phenyl-6-[(1R)-1,2,3,4-tetrahydronaphthalen-1-ylamino]pyrimidine-5-carbonitrile | 0.291 g, 67% yield | NC1=NC(=C(C(=N1)C1=CC=CC=C1)C#N)N[C@@H]1CCCC2=CC=CC=C12 | C21H19N5
